US07868009B2
Step b) Formation of (2R)-4-[4-(4-fluorophenyl)piperazin-1-yl]-N,2-dihydroxy-4-oxobutanamide (1)
To a solution of (5R)-5-{2-[4-(4-fluorophenyl)-1-piperazinyl]-2-oxoethyl}-2,2-dimethyl-1,3-dioxolan-4-one (336 mg; 1.0 mmol; 1.0 eq.) in i-PrOH/THF (25/75) (5 mL) wad added an aqueous solution of hydroxylamine (50%, 0.295 mL; 5.0 mmol; 5.0 eq.). After stirring 3 h at RT, the solvents were evaporated to give a solid. This solid was crystallized from AcOEt (by addition of Et2O and c-Hex) to give the title compound as a white powder (250 mg, 80%). M+ (ESI): 312.1; M− (ESI): 310.1. 1H NMR (DMSO-d6, 300 MHz) δ 10.50 (s, 1H), 8.72 (s, 1H), 7.12-6.91 (m, 4H), 5.46 (d, J=3.0 Hz, 1H), 4.28 (q, J=6.3 Hz, 1H), 3.60 (s, 4H), 3.14-2.95 (m, 4H), 2.65 (d, J=6.3 Hz, 2H). HPLC (Condition A): Rt: 1.6 min (HPLC purity: 85.6%).

reactant | (5R)-5-{2-[4-(4-fluorophenyl)-1-piperazinyl]-2-oxoethyl}-2,2-dimethyl-1,3-dioxolan-4-one | 1.0 mmol, 336 mg, 1.0 eq. | FC1=CC=C(C=C1)N1CCN(CC1)C(C[C@@H]1C(OC(O1)(C)C)=O)=O | C17H21FN2O4
reactant | hydroxylamine | 5.0 mmol, 0.295 mL, 5.0 eq. | NO | H3NO
solvent | i-PrOH THF | 5 mL | CC(C)O.C1CCOC1
product | (2R)-4-[4-(4-fluorophenyl)piperazin-1-yl]-N,2-dihydroxy-4-oxobutanamide | 250 mg, 80% | FC1=CC=C(C=C1)N1CCN(CC1)C(C[C@H](C(=O)NO)O)=O | C14H18FN3O4
